US03976633
A mixture of 2.0 g. (5.2 mmol.) of 1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene and 1.6 ml. of phenyl isocyanate in 20 ml. of ether is stirred at 25° for 48 hours. The precipitate is collected and recrystallized from ether to give 3-(N-phenylcarbamoyl)-1,3-bis(2-cyano-5-trifluoromethylphenyl)-triazene, m.p. 157°-158°.

reactant | 1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene | 5.2 mmol | C(#N)C1=C(C=C(C=C1)C(F)(F)F)N=NNC1=C(C=CC(=C1)C(F)(F)F)C#N | C16H7F6N5
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | ether | CCOCC | C4H10O
product | 3-(N-phenylcarbamoyl)-1,3-bis(2-cyano-5-trifluoromethylphenyl)-triazene | C1(=CC=CC=C1)NC(=O)N(N=NC1=C(C=CC(=C1)C(F)(F)F)C#N)C1=C(C=CC(=C1)C(F)(F)F)C#N | C23H12F6N6O
